US03976693
5-Ethyl-6,7,8,9,10,11-Hexahydro-3-Methoxy-5,10-Methano-5H-Benzocyclononen-12-One
Using a procedure analogous to that described in Example X for the preparation of 6,7,8,9,10,11-hexahydro-3-methoxy-5-methyl-5,10-methano-5H-benzocyclononen-12-one there is obtained from 37.4 g. of 1-(4-chlorobutyl)-1-ethyl-7-methoxy-2-tetralone, 22.2 g. of the title product, b.p. 138° to 142° C. (0.35 mm.).

reactant | 6,7,8,9,10,11-hexahydro-3-methoxy-5-methyl-5,10-methano-5H-benzocyclononen-12-one | COC1=CC2=C(CC3CCCCC2(C3=O)C)C=C1 | C16H20O2
reactant | 1-(4-chlorobutyl)-1-ethyl-7-methoxy-2-tetralone | ClCCCCC1(C(CCC2=CC=C(C=C12)OC)=O)CC | C17H23ClO2
product | 5-Ethyl-6,7,8,9,10,11-Hexahydro-3-Methoxy-5,10-Methano-5H-Benzocyclononen-12-One | C(C)C12CCCCC(CC3=C1C=C(C=C3)OC)C2=O | C17H22O2
